US06326369B1
Ethyl 4-[2-(1,2,3,4-Tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]benzoate
The mixture of 7-(2-iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene (1.00 g), 4-hydroxybenzoate (593 mg), potassium carbonate (987 mg), and DMF (10 ml) was stirred at room temperature for 12 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo. The residue was purified by alumina column chromatography (hexane to hexane:ethyl acetate=15:1) and then with recrystallization from hexane-ethyl acetate to yield the entitled compound (910 mg) as crystals.

reactant | 7-(2-iodoethyl)-1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cycloheptene | 1.00 g | ICCC1CCC2=C(CC1)C(=C(C(=C2OC)OC)OC)OC | C17H25IO4
reactant | 4-hydroxybenzoate | 593 mg | OC1=CC=C(C(=O)[O-])C=C1
reactant | potassium carbonate | 987 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Ethyl 4-[2-(1,2,3,4-Tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)ethoxy]benzoate | 910 mg | COC1=C(C(=C(C2=C1CCC(CC2)CCOC2=CC=C(C(=O)OCC)C=C2)OC)OC)OC | C26H34O7
